US07732466B2
5-chloro-thiophene-2-carboxylic acid-N-{1-[3-methyl-4-(4-ethyl-piperazin-1-yl-carbonyl)-phenylcarbamoyl]-ethyl}-amide
200 μl of a 0.05-molar solution of 2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionic acid, which additionally contains 0.05 mol/l DIPEA, in DMF are combined with 100 μl of a 0.1-molar solution of HATU in DMF on a microtitre plate and mixed for 10 min on a shaker. Then 200 μl of a 0.05-molar solution of 4-(4-ethyl-piperazin-1-yl-carbonyl)-aniline which additionally contains 0.05 mol/l DIPEA are pipetted in and the mixture is again combined by jogging. After 16 h at 80° C. the mixture is filtered through basic aluminium oxide and washed again with DMF/methanol=9:1. Then it is evaporated down i. vac.

reactant | 2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionic acid | ClC1=CC=C(S1)C(=O)NC(C(=O)O)C | C8H8ClNO3S
reactant | DIPEA | 0.05 mol/l | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(4-ethyl-piperazin-1-yl-carbonyl)-aniline | C(C)N1CCN(CC1)C(=O)C1=CC=C(N)C=C1 | C13H19N3O
reactant | DIPEA | 0.05 mol/l | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-thiophene-2-carboxylic acid-N-{1-[3-methyl-4-(4-ethyl-piperazin-1-yl-carbonyl)-phenylcarbamoyl]-ethyl}-amide | CC=1C=C(C=CC1C(=O)N1CCN(CC1)CC)NC(=O)C(C)NC(=O)C=1SC(=CC1)Cl | C22H27ClN4O3S
